US07253196B2
2-(Cyclooctylamino)-5-isopropyl-1,3-thiazol-4(5H)-one
Synthesis was performed from 2-bromo-3-methylbutyric acid and N-cyclooctylthiourea according to Method C1.

reactant | 2-bromo-3-methylbutyric acid | BrC(C(=O)O)C(C)C | C5H9BrO2
reactant | N-cyclooctylthiourea | C1(CCCCCCC1)NC(=S)N | C9H18N2S
product | 2-(Cyclooctylamino)-5-isopropyl-1,3-thiazol-4(5H)-one | C1(CCCCCCC1)NC=1SC(C(N1)=O)C(C)C | C14H24N2OS
